US08106188B2
4-amino-2-methyl-10H-thieno[2,3-b][1,5]benzodiazepine, hydrochloride (50 g) was stirred in a mixture of N-Methylpiperazine (113 g) and Dimethylsulfoxide (300 mL) at 120° C. for 20 h under nitrogen atmosphere. The reaction mass was cooled to 20° C., followed by addition of methanol (500 mL) and the reaction mass was stirred for 30 min. Water (150 mL) was added at 20° C. in 25 min, and the reaction mass was cooled to 5° C. The reaction mass was stirred for 30 min at 0-5° C. The product was filtered and was washed with chilled methanol (50 mL, 5° C.). Dried the product at 50° C. under reduced pressure to give technical 2-Methyl-4-(4-methyl-1-piperazinyl)-10H-thieno[2,3-b][1,5]benzodiazepine or Olanzapine.

reactant | 4-amino-2-methyl-10H-thieno[2,3-b][1,5]benzodiazepine, hydrochloride | 50 g | Cl.NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C
reactant | methanol | 500 mL | CO | CH4O
reactant | Water | 150 mL | O | H2O
reactant | N-Methylpiperazine | 113 g | CN1CCNCC1 | C5H12N2
solvent | Dimethylsulfoxide | 300 mL | CS(=O)C | C2H6OS
product | Olanzapine | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
